US04487773
A mixture of 2-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-1H-1,2,4-triazol-3-(2H)-one (3.86 g., 0.01 mole), 4-phenoxybutyl bromide (2.29 g., 0.01 mole), potassium carbonate (4.15 g., 0.01 mole) and a trace of potassium iodide in 50 ml. of acetonitrile is refluxed for a 65 hr. period. The reaction mixture is filtered, the filtrate concentrated under reduced pressure and residual material taken up in ether and filtered. Concentration of ethereal filtrate affords the free base. Conversion of the free base to the hydrochloride salt in ethanol with ethanolic hydrogen chloride and crystallization of the salt from ethanol affords analytically pure 2-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-2,4-dihydro-4-(4-phenoxybutyl)-3H-1,2,4-triazol-3-one hydrochloride, m.p. 152°-154° C.

reactant | 2-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-1H-1,2,4-triazol-3-(2H)-one | 0.01 mole, 3.86 g | ClC=1C=C(C=CC1)N1CCN(CC1)CCCN1NC(=NC1=O)CC | C17H24ClN5O
reactant | 4-phenoxybutyl bromide | 0.01 mole, 2.29 g | O(C1=CC=CC=C1)CCCCBr | C10H13BrO
reactant | potassium carbonate | 0.01 mole, 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-2,4-dihydro-4-(4-phenoxybutyl)-3H-1,2,4-triazol-3-one hydrochloride | Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CCCN1N=C(N(C1=O)CCCCOC1=CC=CC=C1)CC | InChI=1S/C27H36ClN5O2.ClH/c1-2-26-29-33(27(34)32(26)15-6-7-21-35-25-12-4-3-5-13-25)16-9-14-30-17-19-31(20-18-30)24-11-8-10-23(28)22-24;/h3-5,8,10-13,22H,2,6-7,9,14-21H2,1H3;1H
